US04547501
4-Chloro-1-ethyl-[1,2,4]triazolo-[4,3-a]quinoxaline (1.2 g., 0.005 mole), the product of Example 4, and 676 mg. (0.015 mole) of anhydrous dimethylamine in N,N-dimethylformamide (50 ml.) were stirred at 0° C. for 30 minutes and at room temperature for 2 hours. The reaction mixture was poured over ice and stirred for 20 minutes. The precipitate which formed was separated by filtration, washed with water and air dried. Recrystallization from chloroform and then from chloroform/cyclohexane afforded 510 mg. (42% yield) of 4-dimethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 155°-158° C. Mass spectrum: m/e, 241 (P).

reactant | 4-Chloro-1-ethyl-[1,2,4]triazolo-[4,3-a]quinoxaline | 0.005 mole, 1.2 g | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C11H9ClN4
reactant | dimethylamine | 0.015 mole | CNC | C2H7N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-dimethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 42% yield | CN(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC)C | C13H15N5
